US05489614
4-[(3,4-Dihydroxy-5-cyanophenyl)methylene]-3,5-pentanedione
A mixture 1.6 g of 3,4-dihydroxy-5-cyanobenzaldehyde, 2.0 g of 3,5-pentanedione, 0.2 ml of piperidine and 0.6 ml of acetic acid in 70 ml of toluene was refluxed for 2 h with Dean-Stark separator. The solvent was evaporated in vacuo and the residue was crystallized from acetone-cyclohexane. mp 228°-232° C.

reactant | 3,4-dihydroxy-5-cyanobenzaldehyde | 1.6 g | OC=1C=C(C=O)C=C(C1O)C#N | C8H5NO3
reactant | 3,5-pentanedione | 2.0 g | CCC(CC=O)=O | C5H8O2
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(3,4-Dihydroxy-5-cyanophenyl)methylene]-3,5-pentanedione | OC=1C=C(C=C(C1O)C#N)C=C(C(CC)=O)C=O | C13H11NO4
